US07994185B2
Step D: N-(3-{5-(2-Chloro-4-pyrimidinyl)-2-[4-(methylsulfonyl)-1-piperazinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,5-difluorobenzenesulfonamide
Methanesulfonyl chloride (0.05 mL, 0.7 mmol) was added to a stirring solution of N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-piperazinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (0.40 g, 0.66 mmol) and TEA (0.32 mL, 2.3 mmol) in DCM (10 mL) at rt. LCMS analysis indicated clean conversion to product. The reaction was quenched with water and the whole was extracted with DCM. The combined organic extracts were dried over MgSO4, filtered, and the filtrate was concentrated onto silica gel. Purification by flash chromatography afforded the title compound of Step D (0.14 g, 30% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.80 (s, 1H), 8.34 (d, J=5.5 Hz, 1H), 7.25-7.63 (m, 5H), 6.50 (d, J=5.3 Hz, 1H), 3.69 (br. s., 4H), 3.27 (br. s., 4H), 2.93 (s, 3H).

reactant | Methanesulfonyl chloride | 0.7 mmol, 0.05 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1-piperazinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 0.66 mmol, 0.40 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCNCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H18ClF3N6O2S2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-{5-(2-Chloro-4-pyrimidinyl)-2-[4-(methylsulfonyl)-1-piperazinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,5-difluorobenzenesulfonamide | 0.14 g, 30% yield | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCN(CC1)S(=O)(=O)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C24H20ClF3N6O4S3
